US08258134B2
A solution of 5-(2,6-difluoro-phenoxy)-2-(tetrahydro-pyran-2-yl)-2H-pyridazin-3-one (92.3 mg, 0.30 mmol) in methanol (0.6 mL, 0.5M) was treated with a 6N aqueous hydrochloric acid solution (0.25 L, 1.2M). The reaction was heated at 110° C. for 1 h and then stood at 25° C. overnight. At this point, the reaction was charged with water (10 mL). The solids were crushed, filtered, rinsed, and dried in vacuo to afford 5-(2,6-difluoro-phenoxy)-2H-pyridazin-3-one (45.7 mg, 68%) as an off-white solid; 1H-NMR (400 MHz, DMSO-d6) δ ppm 5.91 (s, 1H), 7.25-7.43 (m, 2H), 7.43-7.57 (m, 1H), 8.11 (d, J=2.6 Hz, 1H), 13.10 (brs, 1H).

reactant | 5-(2,6-difluoro-phenoxy)-2-(tetrahydro-pyran-2-yl)-2H-pyridazin-3-one | 0.30 mmol, 92.3 mg | FC1=C(OC2=CC(N(N=C2)C2OCCCC2)=O)C(=CC=C1)F | C15H14F2N2O3
reactant | hydrochloric acid | 6N, 0.25 L | Cl | ClH
reactant | water | 10 mL | O | H2O
solvent | methanol | 0.5M, 0.6 mL | CO | CH4O
product | 5-(2,6-difluoro-phenoxy)-2H-pyridazin-3-one | 45.7 mg, 68% | FC1=C(OC2=CC(NN=C2)=O)C(=CC=C1)F | C10H6F2N2O2
